US04788205
1. Ethyl 4-[2-(2,4,5-trimethylimidazol-1-yl)ethoxy]-3-ketobutanoate
Sodium hydride (80% dispersion in oil) (7.8 g) was suspended in dry tetrahydrofuran (100 ml). 2-(2,4,5-Trimethylimidazol-1-yl)ethanol (20 g) was added and the suspension sonicated until there was no further gas evolution. Ethyl 4-chloroacetoacetate (21.3 g) in dry tetrahydrofuran (25 ml) was added over 0.75 hours with sonication, and sonication continued for a further 4 hours. The suspension was poured into 2N hydrochloric acid (200 ml) and the tetrahydrofuran removed under vacuum. The aqueous solution was washed with dichloromethane (3×50 ml) and then neutralised with potassium carbonate. The aqueous phase was extracted with dichloromethane (5×100 ml), the combined organic extracts dried over magnesium sulphate and solvent removed under vacuum. The crude product was chromatographed over silica eluting with a mixture of methanol and ethyl acetate (1:3) to yield the title compound as a pale red oil 13.5 g (37%).

reactant | Sodium hydride | 7.8 g | [H-].[Na+]
reactant | 2-(2,4,5-Trimethylimidazol-1-yl)ethanol | 20 g | CC=1N(C(=C(N1)C)C)CCO | C8H14N2O
reactant | Ethyl 4-chloroacetoacetate | 21.3 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | hydrochloric acid | 2N, 200 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | Ethyl 4-[2-(2,4,5-trimethylimidazol-1-yl)ethoxy]-3-ketobutanoate | 13.5 g, 37% | CC=1N(C(=C(N1)C)C)CCOCC(CC(=O)OCC)=O | C14H22N2O4
